US07601844B2
Step 2: (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-aminium chloride
tert-Butyl (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-ylcarbamate (200 mg, 0.46 mmol) and 4 N Hydrochloric acid in dioxane (8 mL) was stirred at rt for 2 hrs. The reaction mixture was then concentrated and dried under high vacuum to yield the product, which was used in next step without further purification.

reactant | tert-Butyl (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-ylcarbamate | 0.46 mmol, 200 mg | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](CC)NC(OC(C)(C)C)=O)=O)(C)C)O | C22H33ClN2O4
reactant | Hydrochloric acid | 4 N | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-aminium chloride | [Cl-].ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](CC)[NH3+])=O)(C)C)O | InChI=1S/C17H25ClN2O2.ClH/c1-4-14(19)15(21)20-10-9-17(22,16(2,3)11-20)12-5-7-13(18)8-6-12;/h5-8,14,22H,4,9-11,19H2,1-3H3;1H/t14-,17+;/m1./s1
